US08124649B2
To 4-(5-formylfuran-2-yl)benzenesulfonamide (30 mg, 0.120 mmol) in EtOH was added 5-chlorooxindole (20 mg, 0.120 mmol) and piperidine (12 μL, 0.120 mmol). The mixture was stirred at 70° C. for several hours. The solid formed was isolated by filtration and air dried to yield 4-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzenesulfonamide. LC-MS (M+1=401).

reactant | 4-(5-formylfuran-2-yl)benzenesulfonamide | 0.120 mmol, 30 mg | C(=O)C1=CC=C(O1)C1=CC=C(C=C1)S(=O)(=O)N | C11H9NO4S
reactant | 5-chlorooxindole | 0.120 mmol, 20 mg | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | piperidine | 0.120 mmol, 12 μL | N1CCCCC1 | C5H11N
solvent | EtOH | CCO | C2H6O
product | 4-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzenesulfonamide | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=C(O1)C1=CC=C(C=C1)S(=O)(=O)N | C19H13ClN2O4S
